US04093742
N-methyl-N-[4-(hexafluoro-2-hydroxy-2-propyl)phenyl]urea
Saturate with NH3 a solution of 6.7 g (20 mmole) N-methyl-N-[4-(hexafluoro-2-hydroxy-2-propyl)phenyl]carbamyl chloride in 200 ml Et2O. After 24 hours, wash the Et2O with water, then 1N HCl. Dry, concentrate and recrystallize the solid from ether-hexane to give 5.0 g white solid; m.p. 181°-184°.

reactant | NH3 | N | H3N
reactant | N-methyl-N-[4-(hexafluoro-2-hydroxy-2-propyl)phenyl]carbamyl chloride | 20 mmole, 6.7 g | CN(C(=O)Cl)C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C11H8ClF6NO2
solvent | Et2O | 200 ml | CCOCC | C4H10O
product | N-methyl-N-[4-(hexafluoro-2-hydroxy-2-propyl)phenyl]urea | 5.0 g | CN(C(=O)N)C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C11H10F6N2O2
